US06599942B1
A suspension of the title D compound, 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)benzenesulfonic acid, cesium salt (9.9 9, 20 mmol) in 200 mL of CH2Cl2 is treated with DMF (3.1 mL, 40 mmol), then oxalyl chloride (3.5 mL, 40 mmol) is added over 30 min at RT. The reaction mixture is stirred for 1 h further, then diluted with Et2O (200 mL) and washed with water and brine, dried over anhydrous sodium sulfate (Na2SO4) and concentrated. The product is washed with Et2O (5 mL) and dried in vacuo to afford 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)benzenesulfonyl chloride: NMR (CDCl3) 2.24 (s, 6H), 5.31 (s, 2H), 7.02 (dd, 1 H, J=8.7, 3.8), 7.10 (d, 1H, J=8.7), 7.32-7.47 (m, 4H), 7.52 (d, 2H, J=7.5), 8.05 (s, 2H).

reactant | 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)benzenesulfonic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)S(=O)(=O)O | C21H19NO7S
reactant | cesium | 20 mmol | [Cs] | Cs
reactant | DMF | 40 mmol, 3.1 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 40 mmol, 3.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)benzenesulfonyl chloride | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)S(=O)(=O)Cl | C21H18ClNO6S
